US08278338B2
About 10.8 ml of 37% hydrochloric acid were added at room temperature to 1.2 g of 2-dimethylaminomethyl-1-pyridin-3-yl-5-trifluoromethoxy-indan-1-ol hydrochloride (mixture of the diastereoisomers), and stirring was carried out overnight; 15 ml of acetone p.a. were added, and stirring was carried out for 2 hours. An oily, semi-crystalline precipitate formed, from which the supernatant was separated off. The residue was taken up in about 40 ml of acetone p.a. and stirred, whereupon fine crystals formed, which were filtered off with suction, with the exclusion of air, washed twice with diethyl ether and dried under an oil-pump vacuum at from 25 to 60° C. 1.17 g of dimethyl-(3-pyridin-3-yl-6-trifluoromethoxy-1H-inden-2-ylmethyl)-amine hydrochloride were obtained.

reactant | hydrochloric acid | 10.8 ml | Cl | ClH
reactant | 2-dimethylaminomethyl-1-pyridin-3-yl-5-trifluoromethoxy-indan-1-ol hydrochloride | Cl.CN(C)CC1C(C2=CC=C(C=C2C1)OC(F)(F)F)(O)C=1C=NC=CC1
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | dimethyl-(3-pyridin-3-yl-6-trifluoromethoxy-1H-inden-2-ylmethyl)-amine hydrochloride | 1.17 g | Cl.CN(CC=1CC2=CC(=CC=C2C1C=1C=NC=CC1)OC(F)(F)F)C | InChI=1S/C18H17F3N2O.ClH/c1-23(2)11-14-8-13-9-15(24-18(19,20)21)5-6-16(13)17(14)12-4-3-7-22-10-12;/h3-7,9-10H,8,11H2,1-2H3;1H
